US07749992B2
Step 4. Preparation of 8-Chloro-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester
Add dichloromethane (DCM) (100 mL) to a mixture of 8-Chloro-1,2,3,4-tetrahydro-benzo[b]azepin-5-one (3.0 g, 15.4 mmol) and di-t-butyl dicarbonate (38.5 mmol). To this mixture add dimethylaminopyridine (7.7 mmol) and diisopropyl ethylamine (38.5 mmol) and stir at room temperature under an atmosphere of nitrogen for 24 h. Concentrate the reaction under vacuum and chromatograph the product over silica gel using ethyl acetate/hexane (0-20%) to elute. This provides the title compound (3.6 g, 79%) as an oil which crystallizes upon standing: H NMR (CDCl3, 400 MHz) δ 1.53 (s, 9H), 2.15 (m, 2H), 2.75 (t, J=6.8 Hz, 2H), 3.73 (bt, J=6.8 Hz, 2H), 7.22 (dd, J=2.0, 8.8 Hz, 1H), 7.49 (bs, 1H), 7.80 (d, J=8.8 Hz, 1H). MS (ES+): 296 (M+H).

reactant | 8-Chloro-1,2,3,4-tetrahydro-benzo[b]azepin-5-one | 15.4 mmol, 3.0 g | ClC=1C=CC2=C(NCCCC2=O)C1 | C10H10ClNO
reactant | di-t-butyl dicarbonate | 38.5 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 7.7 mmol | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | diisopropyl ethylamine | 38.5 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 8-Chloro-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 3.6 g, 79% | C(C)(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C=CC(=C2)Cl | C15H18ClNO3
